US09108934B2
(2R,4R)-4-[(3-Acetoxymethoxy-3H-benzotriazole-5-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid
4.0 M HCl in 1,4-dioxane (270 mL, 1.1 mmol) was added to a solution of (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid (130 mg, 270 μmol) in benzyl alcohol (559 μL, 5.4 mmol), and stirred at 60° C. for 1.5 hours. The mixture was then purified (C18 column chromatography, 55 g column, using 30-90% MeCN in water with 0.05% TFA) to yield an off-white solid. Bromomethyl acetate (45.5 mg, 297 μmol) was added to a solution of this off-white solid and K2CO3 (82.2 mg, 595 μmol) in DMF (3.1 mL, 40.0 mmol) and the resulting mixture was stirred at room temperature for 1 hour. The mixture was then purified (column chromatography, small column, using 40-90% MeCN in water with 0.05% TFA) to yield a clear colorless viscous liquid. 10% Pd/C, 50% wet (0.45 mmol/g loading; 30.0 mg, 13.5 μmol) was added to a solution of this clear colorless viscous liquid in MeOH (4.1 mL, 102 mmol) and the resulting mixture was stirred under hydrogen for 30 minutes. The mixture was filtered and the filtrate was concentrated in vacuo to yield a clear colorless liquid. The crude liquid was purified (C18 column chromatography, 55 g column, using 30-85% MeCN in water with 0.05% TFA) to yield the title compound (14.0 mg) as a white solid. MS m/z [M+H]+ calc'd for C27H25ClN4O7, 553.14. found 553.1.

reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 1.1 mmol, 270 mL | O1CCOCC1 | C4H8O2
reactant | (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid | 270 μmol, 130 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=CC2=C(N=NN2O)C=C1 | C24H21ClN4O5
reactant | benzyl alcohol | 5.4 mmol, 559 μL | C(C1=CC=CC=C1)O | C7H8O
reactant | Bromomethyl acetate | 297 μmol, 45.5 mg | C(C)(=O)OCBr | C3H5BrO2
reactant | K2CO3 | 595 μmol, 82.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 40.0 mmol, 3.1 mL | CN(C)C=O | C3H7NO
reactant | MeOH | 102 mmol, 4.1 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (2R,4R)-4-[(3-Acetoxymethoxy-3H-benzotriazole-5-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid | 14.0 mg | C(C)(=O)OCON1N=NC2=C1C=C(C=C2)C(=O)N[C@@H](C[C@H](C(=O)O)O)CC2=CC=C(C=C2)C2=CC(=CC=C2)Cl | C27H25ClN4O7
